US05596097
Under a nitrogen atmosphere a solution of N-[2-(dimethylamino)ethyl]hydrazine (0.805 g) in THF (10.75 mL) is added to a stirred suspension of 9-fluoro-6-(p-toluenesulfonyloxy)benzo[g]isoquinoline-5,10-dione-2-oxide of Preparative Example 21 (1.075 g) in THF (10.75 mL). After stirring for 2 h, the mixture is heated to 40° C. for 1 h. After cooling to room temperature the mixture is poured in water (150 mL) and the obtained suspension is stirred for 2 h. The precipitate is recovered by filtration and recrystallized from ethyl acetate/n-hexane to give 2-[2-(dimethylamino)ethyl)]-5-(p-toluenesulfonyloxy)isoquino[8,7,6-cd]indazole-6(2H)-one-9-oxide (0.31 g).

reactant | N-[2-(dimethylamino)ethyl]hydrazine | 0.805 g | CN(CCNN)C | C4H13N3
reactant | 9-fluoro-6-(p-toluenesulfonyloxy)benzo[g]isoquinoline-5,10-dione-2-oxide | FC1=CC=C(C=2C(C=3C=C[N+](=CC3C(C21)=O)[O-])=O)OS(=O)(=O)C2=CC=C(C=C2)C | C20H12FNO6S
solvent | THF | 10.75 mL | C1CCOC1 | C4H8O
solvent | THF | 10.75 mL | C1CCOC1 | C4H8O
solvent | water | 150 mL | O | H2O
product | 5-(p-toluenesulfonyloxy)isoquino[8,7,6-cd]indazole-6(2H)-one-9-oxide | 0.31 g | C1(=CC=C(C=C1)S(=O)(=O)OC1=C2C=3C(=NNC3C=C1)C=1C=[N+](C=CC1C2=O)[O-])C | C20H13N3O5S
